US08278331B2
A solution of 4-(2-chloropyridin-4-yloxy)-2-fluorobenzenamine (3 g, 12.6 mmol), 1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (5.2 g, 25.2 mmol), and Na2CO3 (2.7 g, 25.2 mmol) in DME (18 mL)/water (6 mL) was sparged with nitrogen for 20 min. Pd(PPh3)4 (729 mg, 0.63 mmol) was added and the resulting mixture was heated to 100° C. for 16 h. The solvent was removed under reduced pressure and the crude product was suspended in water and extracted with EtOAc. The organic layer was washed with brine, dried (Na2SO4), concentrated in vacuo. and purified via silica gel chromatography to give 2-fluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzenamine (2 g, 56% yield). 1H NMR (300 MHz, DMSO-d6): δ 8.31 (d, J=5.7 Hz, 1H), 8.21 (s, 1H), 7.92 (s, 1H), 7.12 (d, J=2.4 Hz, 1H), 6.96 (m, 1H), 6.85-6.72 (m, 2H), 6.56 (m, 1H), 5.15 (s, 2H), 3.84 (s, 3H); MS (ESI) m/z: 285.0 (M+H+).

reactant | 4-(2-chloropyridin-4-yloxy)-2-fluorobenzenamine | 12.6 mmol, 3 g | ClC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)F | C11H8ClFN2O
reactant | 1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 25.2 mmol, 5.2 g | CN1N=C(C=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Na2CO3 | 25.2 mmol, 2.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 6 mL | O | H2O
solvent | DME | 18 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.63 mmol, 729 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-4-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzenamine | 2 g, 56% yield | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)C=1C=NN(C1)C)N | C15H13FN4O
